US06875780B2
Synthesis of {2-Oxo-6-[4-(4-trifluoromethyl-benzyloxy)-benzylsulfanyl-3,4-dihydro-2H-quinolin-1-yl}-acetic acid (Compound 49) Step 1.
Methyl bromoacetate (5.72 g, 37.4 mmol) was slowly added to a stirred solution of sodium hydride (1.5 g, 37.4 mmol) and 3,4-dihydro-2 (1H)quinolinone (5.0 g, 34 mmol) in THF. The mixture was stirred at RT for 3 h. After removing the solvent, the residue was diluted with water and ether. The layers were separated and the aqueous layer was extracted with ether (3×50 mL). The combined organics were dried with MgSO4 and condensed to afford the desired product, compound 49A (7.06 g, 95%) as a yellow solid. MS m/z 220 (M+1). Step 2. Preparation of (6-Chlorosulfonyl-2-oxo-3,4-dihydro-2H-quinolin-1-yl) acetic acid methyl ester (Compound 49B).

reactant | Methyl bromoacetate | 37.4 mmol, 5.72 g | BrCC(=O)OC | C3H5BrO2
reactant | sodium hydride | 37.4 mmol, 1.5 g | [H-].[Na+]
reactant | 3,4-dihydro-2 (1H)quinolinone | 34 mmol, 5.0 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
solvent | THF | C1CCOC1 | C4H8O
product | (2-Oxo-3,4-dihydro-2H-quinolin-1-yl)-acetic acid methyl ester | 7.06 g, 95% | COC(CN1C(CCC2=CC=CC=C12)=O)=O | C12H13NO3
